US04136256
Preparation of 2-(4-aminophenyl)-4,4-dimethyl-2-oxazoline
To a solution of 9.5 g. of N-(1,1-dimethyl-2-hydroxyethyl)-4-aminobenzamide in 100 ml. of DME was added gaseous HCl such that all of the starting amide came out of solution. The solvent was removed and 30 ml. of thionyl chloride added. This solution was stirred for 2 days at 5° C. The excess thionyl chloride was removed. The amber liquid was then poured into 200 ml. of CH2Cl2 and neutralized with 20% NaOH with cooling. The solution was extracted with diethyl ether and the ether layer dried over MgSO4. The combined ether layer was filtered and concentrated to a solid; 5.75 g. This solid was preabsorbed on 25 g. of silica III and placed on 425 g. of silica (in a column). Elution with ether gave 3.7 g. of product which was recrystallized from CH2Cl2 -hexane (1:1) and acetonitrile, m.p. 227°-230° C.

reactant | N-(1,1-dimethyl-2-hydroxyethyl)-4-aminobenzamide | CC(CO)(C)NC(C1=CC=C(C=C1)N)=O | C11H16N2O2
reactant | HCl | Cl | ClH
solvent | DME | COCCOC | C4H10O2
product | 2-(4-aminophenyl)-4,4-dimethyl-2-oxazoline | NC1=CC=C(C=C1)C=1OCC(N1)(C)C | C11H14N2O
